US04600536
The reaction is conducted by stirring a benzene solution of hexanitrobenzene with a slight excess of sodium azide (aqueous solution) at 25° C. After separating and drying the benzene solution, the solvent is removed leaving pure pentanitrophenyl azide. Recrystallization from carbon tetrachloride gives either long, flat yellow prisms (α-form) or chunky, orange-yellow rosettes (β-form) of pentanitrophenyl azide.

reactant | hexanitrobenzene | [N+](=O)([O-])C1=C(C(=C(C(=C1[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C6N6O12
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | pentanitrophenyl azide | [N+](=O)([O-])C1=C(C(=C(C(=C1N=[N+]=[N-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C6N8O10
